US06919352B2
To a solution of 7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine (10.0 g, 40.5 mmol) in toluene (225 mL) at room temperature was added acetic anhydride (4.6 mL, 48.6 mmol). Boron trifluoride diethyletherate (5.6 mL, 44.6 mmol) was then added dropwise and the resultant solution was heated to reflux for 3.5 hours. The reaction mixture was cooled to room temperature and quenched by the dropwise addition of aqueous sodium bicarbonate. Ether was added and the organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics were dried over magnesium sulfate, filtered and concentrated. The residue was purified by recrystallization from ethyl acetate-hexanes to give 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone (9.0 g, 77%) as redish needles. 1H NMR (CDCl3): δ 8.41 (d, 1 H), 7.59 (m, 2 H), 7.45 (dd, 1 H), 7.26-7.13 (m 3 H), 2.15 (s, 3 H); 19F NMR (CDCl3) δ −112.06; MS m/289 (M+1).

reactant | 7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine | 40.5 mmol, 10.0 g | ClC1=CC=CC=2N1N=C(C2)C2=CC=C(C=C2)F | C13H8ClFN2
reactant | acetic anhydride | 48.6 mmol, 4.6 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Boron trifluoride | B(F)(F)F | BF3
solvent | toluene | 225 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone | 9.0 g, 77% | ClC1=CC=CC=2N1N=C(C2C(C)=O)C2=CC=C(C=C2)F | C15H10ClFN2O
